US07253190B2
Following the procedure described in EXAMPLE 1 for the synthesis of 2-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]pyridine, 3,5-difluoroaniline (131 mg, 1.0 mmol) and pyridine-2-carboxaldehyde (109 mg, 1.0 mmol) were employed to obtain 2-[2-(3,5-difluorophenyl)-2H-tetrazol-5-yl]pyridine as an orange solid.

reactant | 2-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]pyridine | ClC=1C=C(C=CC1)N1N=C(N=N1)C1=NC=CC=C1 | C12H8ClN5
reactant | 3,5-difluoroaniline | 1.0 mmol, 131 mg | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | pyridine-2-carboxaldehyde | 1.0 mmol, 109 mg | N1=C(C=CC=C1)C=O | C6H5NO
product | 2-[2-(3,5-difluorophenyl)-2H-tetrazol-5-yl]pyridine | FC=1C=C(C=C(C1)F)N1N=C(N=N1)C1=NC=CC=C1 | C12H7F2N5
